US08957062B2
Step F: 1-methylcyclopropyl 4-[(1R,2S)-2-(2-{4-[2-(dimethylamino)-2-oxoethyl]-2,5-difluorophenoxy}ethyl)cyclopropyl]piperidine-1-carboxylate
To a solution of 2-(2,5-difluoro-4-{2-[(1S,2R)-2-piperidin-4 ylcyclopropyl]ethoxy}phenyl-)-N,N-dimethylacetamide (40.0 mg, 0.109 mmol) in 1 ml anhydrous dichloromethane at 0° C. was added triethylamine (0.0300 ml, 0.218 mmol) and 1-({[(1-methylcyclopropyl)oxy]carbonyl}oxy)pyrrolidine-2,5-dione (27.9 mg, 0.131 mmol). The reaction was stirred at RT for 2 hours. The solvent was evaporated, and the residue was purified by reverse-phase HPLC (SunFire Prep C18 OBD 5 um 19×100 mm column; 25-85% acetonitrile in 0.1% formic acid in water gradient) to give the title compound. LC/MS (m/z): 465.4 (M+H)+. Human EC50: 2.2 nM

reactant | 2-(2,5-difluoro-4-{2-[(1S,2R)-2-piperidin-4 ylcyclopropyl]ethoxy}phenyl-)-N,N-dimethylacetamide | 0.109 mmol, 40.0 mg | FC1=C(C=C(C(=C1)OCC[C@H]1[C@H](C1)C1CCNCC1)F)CC(=O)N(C)C | C20H28F2N2O2
reactant | triethylamine | 0.218 mmol, 0.0300 ml | C(C)N(CC)CC | C6H15N
reactant | 1-({[(1-methylcyclopropyl)oxy]carbonyl}oxy)pyrrolidine-2,5-dione | 0.131 mmol, 27.9 mg | CC1(CC1)OC(=O)ON1C(CCC1=O)=O | C9H11NO5
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 1-methylcyclopropyl 4-[(1R,2S)-2-(2-{4-[2-(dimethylamino)-2-oxoethyl]-2,5-difluorophenoxy}ethyl)cyclopropyl]piperidine-1-carboxylate | CN(C(CC1=CC(=C(OCC[C@H]2[C@H](C2)C2CCN(CC2)C(=O)OC2(CC2)C)C=C1F)F)=O)C | C25H34F2N2O4
